US03957814
(3-Methyl-4-(4-methoxybenzyl)-1-(α,4-dimethylbenzyl)-pyrazol-5-one). ##SPC19##
31 g of α-(4-methoxybenzyl)-acetoacetic acid ethyl ester were added to a solution of 15 g of α-methyl-4-methylbenzylhydrazine in 30 ml of absolute ethanol in an inert gas atmosphere, during which the temperature of the reaction mixture rose to 60°C. After heating for 2 hours under reflux and standing overnight, the product crystallized out and was recrystallized from a mixture of ethanol and a little dimethylformamide.

reactant | α-(4-methoxybenzyl)-acetoacetic acid ethyl ester | 31 g | C(C)OC(C(C(=O)C)CC1=CC=C(C=C1)OC)=O | C14H18O4
reactant | α-methyl-4-methylbenzylhydrazine | 15 g | CC(C1=CC=C(C=C1)C)NN | C9H14N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Methyl-4-(4-methoxybenzyl)-1-(α,4-dimethylbenzyl)-pyrazol-5-one | CC=1NN(C(C1CC1=CC=C(C=C1)OC)=O)C(C1=CC=C(C=C1)C)C | C21H24N2O2
